US08981147B2
bis(4-dimethylamino-3,5-dimethylphenyl)phosphine-borane complex
Under an argon atmosphere, to a solution of bis(4-dimethylamino-3,5-dimethylphenyl)phosphine oxide (4.6 g, 14 mmoL) synthesized in Example 1 in toluene (30 mL) was added borane-tetrahydrofuran solution (71 mL, 5.4 equivalents) at room temperature over 2 hr. Then, silica gel (8.7 g, 10.8 equivalents) was added to the mixture, and the mixture was stirred at room temperature for 1.5 hr. The silica gel was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel 20 g, toluene) and the residue was recrystallized from n-hexane to give the title compound (3.0 g, white crystals). yield 65%.

reactant | bis(4-dimethylamino-3,5-dimethylphenyl)phosphine oxide | 4.6 g | CN(C1=C(C=C(C=C1C)P(C1=CC(=C(C(=C1)C)N(C)C)C)=O)C)C | C20H29N2OP
reactant | borane tetrahydrofuran | 71 mL, 5.4 equivalents | B.O1CCCC1
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | bis(4-dimethylamino-3,5-dimethylphenyl)phosphine borane | 3.0 g, yield 65% | CN(C1=C(C=C(C=C1C)PC1=CC(=C(C(=C1)C)N(C)C)C)C)C.B | InChI=1S/C20H29N2P.BH3/c1-13-9-17(10-14(2)19(13)21(5)6)23-18-11-15(3)20(22(7)8)16(4)12-18;/h9-12,23H,1-8H3;1H3
